US03997669
The mixture of 17.7 g of ethyl α-(4-aminophenyl)-propionate, 15 g of 2-carboxy-benzaldehyde, 50 mg of p-toluenesulfonic acid and 400 ml of toluene is refluxed for two days on a water trap. After collection of the theoretical amount of water (1.9 ml), it is concentrated and the precipitate formed recrystallized from ethanol, to yield the ethyl α-[4-(3-oxo-isobenzofuran-1-ylamino)-phenyl]-propionate, melting at 136°-139°.

reactant | ethyl α-(4-aminophenyl)-propionate | 17.7 g | NC1=CC=C(C=C1)C(C(=O)OCC)C | C11H15NO2
reactant | 2-carboxy-benzaldehyde | 15 g | C(=O)(O)C1=C(C=O)C=CC=C1 | C8H6O3
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl α-[4-(3-oxo-isobenzofuran-1-ylamino)-phenyl]-propionate | O=C1OC(C2=CC=CC=C12)NC1=CC=C(C=C1)C(C(=O)OCC)C | C19H19NO4
